US04874769
A mixture of 9.8 g (0.032 mol) of 3-[4-(2-quinolylmethyloxy)phenoxy]propionitrile, 6.36 g of sodium azide and 5.28 g of ammonium chloride is heated with 30 ml of dry dimethylformamide at 140° C. for 20 hours. The reaction mixture is poured onto ice, basified with 1N sodium hydroxide and extracted 2 times with ethyl acetate. The aqueous fraction is acidified with acetic acid. The product is filtered and washed with water. The crude product is crystallized from acetonitrile to give 5-[2-(4-(2-quinolylmethyloxy)phenoxy)ethyl]tetrazole.

reactant | 3-[4-(2-quinolylmethyloxy)phenoxy]propionitrile | 0.032 mol, 9.8 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(OCCC#N)C=C1 | C19H16N2O2
reactant | sodium azide | 6.36 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 5.28 g | [Cl-].[NH4+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 5-[2-(4-(2-quinolylmethyloxy)phenoxy)ethyl]tetrazole | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(OCCC2=NN=NN2)C=C1 | C19H17N5O2
